US04264605
1-(2,6-DIMETHOXYBENZOYL)-3-(6-(4-BROMOPHENOXY)-3-PYRIDINYL)UREA
2,6-Dimethoxybenzoyl isocyanate (2.0 grams) and 6-(4-bromophenoxy)-3-aminopyridine (2.3 grams) were mixed in about 50 ml. of ethyl acetate at room temperature, and the reaction mixture stirred overnight (about 17 hours) at room temperature. The product was separated by filtration and crystallized from a mixture of ethyl acetate and ethanol, yield 0.9 gram, m.p., 177°-179° C.

reactant | 2,6-Dimethoxybenzoyl isocyanate | 2.0 grams | COC1=C(C(=O)N=C=O)C(=CC=C1)OC | C10H9NO4
reactant | 6-(4-bromophenoxy)-3-aminopyridine | 2.3 grams | BrC1=CC=C(OC2=CC=C(C=N2)N)C=C1 | C11H9BrN2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-DIMETHOXYBENZOYL)-3-(6-(4-BROMOPHENOXY)-3-PYRIDINYL)UREA | COC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)Br)C(=CC=C1)OC | C21H18BrN3O5
